** sch_path: /home/anton/projects/tt-vga-fun/xschem/04-csdac1.sch
**.subckt 04-csdac1
Vvcc vcc GND 1.8
Vg G GND 0
XMprog net1 G GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMmirror net1 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=11.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 net3 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=8.6 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs1 net2 GND 0
XM2 net4 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net5 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=2.2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net6 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.15 W=1.1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net7 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.2 W=2.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net8 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.2 W=0.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net9 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.25 W=0.7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net10 net1 vcc vcc sky130_fd_pr__pfet_01v8 L=0.3 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMS1 net3 d7 net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMS2 net4 d6 net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=3.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMS3 net5 d5 net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=3.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMS4 net6 d4 net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMS5 net7 d3 net2 net2 sky130_fd_pr__nfet_01v8 L=0.6 W=0.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMS6 net8 d2 net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMS7 net9 d1 net2 net2 sky130_fd_pr__nfet_01v8 L=2 W=0.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMS8 net10 d0 net2 net2 sky130_fd_pr__nfet_01v8 L=3 W=0.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vvd0 d0 GND 0
Vvd1 d1 GND 0
Vvd2 d2 GND 0
Vvd3 d3 GND 0
Vvd4 d4 GND 0
Vvd5 d5 GND 0
Vvd6 d6 GND 0
Vvd7 d7 GND 0
**** begin user architecture code



.DC Vg 0 1.8 0.01

*.param GW     = 0.5
*.param GL     = 0.15

.options savecurrents
.control

  save all
  alter Vvd7 1.8
  run
  write 04.raw G i(Vs1)

  set appendwrite
  reset
  alter Vvd7 0
  alter Vvd6 1.8
  run
  write 04.raw G i(Vs1)

  set appendwrite
  reset
  alter Vvd6 0
  alter Vvd5 1.8
  run
  write 04.raw G i(Vs1)

  set appendwrite
  reset
  alter Vvd5 0
  alter Vvd4 1.8
  run
  write 04.raw G i(Vs1)

  set appendwrite
  reset
  alter Vvd4 0
  alter Vvd3 1.8
  run
  write 04.raw G i(Vs1)

  set appendwrite
  reset
  alter Vvd3 0
  alter Vvd2 1.8
  run
  write 04.raw G i(Vs1)

  set appendwrite
  reset
  alter Vvd2 0
  alter Vvd1 1.8
  run
  write 04.raw G i(Vs1)

  set appendwrite
  reset
  alter Vvd1 0
  alter Vvd0 1.8
  run
  write 04.raw G i(Vs1)

  * Turn all on:
  set appendwrite
  reset
  alter Vvd0 1.8
  alter Vvd1 1.8
  alter Vvd2 1.8
  alter Vvd3 1.8
  alter Vvd4 1.8
  alter Vvd5 1.8
  alter Vvd6 1.8
  alter Vvd7 1.8
  run
  write 04.raw G i(Vs1)


.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends
.GLOBAL GND
.end
